US06252084B1
[3-[[3-(2-Ethoxy-2-oxoethyl)-1-(phenylmethyl)-1H-indol-5-yl]oxy]propyl]phosphonic acid dimethyl ester (590 mg, 1.3 mmol) was dissolved in 40 mL of toluene and 10 mL of 0.67M (CH3)2AlNH2 in benzene/toluene were added. The mixture was heated at 50° C. for 3.25 hours and water and 1N HCl added. The mixture was extracted with a large volume of ethyl acetate and the organic layer was washed with brine, dried (Na2SO4) and concentrated at reduced pressure. The residue was chromatographed on silica gel eluting with a gradient, 1% MeOH/methylene chloride→4% MeOH/methylene chloride, to give 450 mg (80% yield) of [3-[[3-(2-amino-2-oxoethyl)-1-(phenylmethyl)-1H-indol-5-yl]oxy]propyl]phosphonic acid dimethyl ester.

reactant | [3-[[3-(2-Ethoxy-2-oxoethyl)-1-(phenylmethyl)-1H-indol-5-yl]oxy]propyl]phosphonic acid dimethyl ester | 1.3 mmol, 590 mg | COP(OC)(=O)CCCOC=1C=C2C(=CN(C2=CC1)CC1=CC=CC=C1)CC(=O)OCC | C24H30NO6P
reactant | (CH3)2AlNH2 | 0.67M, 10 mL | [Al](C)(C)N
reactant | water | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | benzene toluene | C1=CC=CC=C1.C1(=CC=CC=C1)C
product | [3-[[3-(2-amino-2-oxoethyl)-1-(phenylmethyl)-1H-indol-5-yl]oxy]propyl]phosphonic acid dimethyl ester | 450 mg, 80% yield | COP(OC)(=O)CCCOC=1C=C2C(=CN(C2=CC1)CC1=CC=CC=C1)CC(=O)N | C22H27N2O5P
